US08084623B2
4-(5-fluoro-1H-indole-2-carbonyl)-4-propyl-piperidine-1-carboxylic acid tert-butyl ester 162 mg was dissolved in 1 M methanolic HCl and stirred at room temperature for 24 hours. The solvent was removed to afford an oil which was precipitated from diethyl ether to give (5-fluoro-1H-indol-2-yl)-(4-propyl-piperidin-4-yl)-methanone; hydrochloride 132 mg as a solid in 97% yield, MS=289 [M+H]+.

reactant | 4-(5-fluoro-1H-indole-2-carbonyl)-4-propyl-piperidine-1-carboxylic acid tert-butyl ester | 162 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(CCC)C(=O)C=1NC2=CC=C(C=C2C1)F | C22H29FN2O3
solvent | HCl | 1 M | Cl | ClH
product | (5-fluoro-1H-indol-2-yl)-(4-propyl-piperidin-4-yl)-methanone | 97% yield | FC=1C=C2C=C(NC2=CC1)C(=O)C1(CCNCC1)CCC | C17H21FN2O
